US04431643
A mixture of dimethylformamide (2.81 g.) and phosphorus oxychloride (5.36 g.) was warmed at 40° C. for 1 hour. After cooling, methylene chloride (60 ml.) was added thereto and disilled off. To the residue was added dry ethyl acetate (50 ml.). Then, 2-methoxyimino-2-(3-hydroxyphenyl)acetic acid (syn isomer) (6.83 g.) was added thereto at 5° C. with stirring under ice-cooling. The resultant mixture was then stirred for 50 minutes at the same temperature. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (11.5 g.) and bis(trimethylsilyl)acetamide (28.4 g.) were dissolved in dry ethyl acetate (150 ml.) and stirred under cooling, to which was at a time added the above obtained solution at -40° C. After stirring for 2 hours at -30° to -20° C., a saturated sodium chloride aqueous solution (100 ml.) was added at -20° C. to the reaction mixture. The mixture was stirred for 5 minutes. The precipitates were filtered off and ethyl acetate layer in the filtrate was separated. The aqueous layer was extracted twice with ethyl acetate (50 ml.). Ethyl acetate layer separated from the filtrate and the extracts were combined. The combined ethyl acetate solution was washed with a saturated sodium chloride aqueous solution (50 ml.). To the ethyl acetate layer was added activated charcoal and the mixture was stirred for 5 minutes and filtered. Water (100 ml.) was added to the filtrate and the resulting mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated and washed with methylene chloride. After the aqueous layer was separated, methylene chloride was removed from the aqueous layer by bubbling of nitrogen gas under ice-cooling. After filtration, the aqueous layer was adjusted to pH 2 with 10% hydrochloric acid with stirring and ice-cooling. Precipitating crystals were collected by filtration, washed with water and dried to give 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (11.3 g.).

reactant | phosphorus oxychloride | 5.36 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(3-hydroxyphenyl)acetic acid | 6.83 g | CON=C(C(=O)O)C1=CC(=CC=C1)O | C9H9NO4
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 11.5 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | bis(trimethylsilyl)acetamide | 28.4 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 2.81 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 11.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=CC=C1)O | C19H19N7O6S2
